US07981874B2
tert-Butyl 4-(2-methyl-2-oxido-1,3,2-dioxaphosphinan-5-yl)benzoate.
tert-Butyl 4-[2-hydroxy-1-(hydroxymethyl)ethyl]benzoate (440 mg, 1.74 mmol) and TEA (510 μl, 3.66 mmol) were taken up in CH2Cl2 (20 mL) and cooled to 0° C. Methylphosphonic dichloride (193 μl, 2.09 mmol) in CH2Cl2 (10 mL) was added dropwise over 30 minutes. The reaction was then allowed to warm to room temperature and stirred for 1 h. The mixture was diluted with water and extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) allowed separation of residual starting material from the diastereomeric products, but the diastereomers coeluted. Flash chromatography of the mixed diastereomers with 25-100% EtOAc/hexanes slowly eluted the first diastereomer, and the same column was flushed with 2-10% MeOH/CH2Cl2 to push off the second diastereomer (both were obtained as colorless solids). 1H NMR (CDCl3, 600 MHz) Diastereomer 1: δ 7.95 (d, J=8.5 Hz, 2H), 7.25 (d, J=8.5 Hz, 2H), 4.70-4.65 (m, 2H), 4.24-4.17 (m, 2H), 3.54-3.47 (m, 1H), 1.63 (d, J=18.0 Hz, 3H), 1.56 (s, 9H). Diastereomer 2: δ 7.97 (d, J=8.4 Hz, 2H), 7.31 (d, J=8.3 Hz, 2H), 4.66-4.59 (m, 2H), 4.36-4.30 (m, 2H), 3.50-3.45 (m, 1H), 1.62 (d, J=17-3 Hz, 3H), 1.57 (s, 9H). MS: cal'd 313 (MH+), exp 313 (MH+).

reactant | tert-Butyl 4-[2-hydroxy-1-(hydroxymethyl)ethyl]benzoate | 1.74 mmol, 440 mg | OCC(CO)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H20O4
reactant | Methylphosphonic dichloride | 2.09 mmol, 193 μl | CP(=O)(Cl)Cl | CH3Cl2OP
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 4-(2-methyl-2-oxido-1,3,2-dioxaphosphinan-5-yl)benzoate | CP1(OCC(CO1)C1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C15H21O5P
